US08629233B2
A. Preparation of poly(DTBn-glutarate)
DTBn (0.5 mol, 209.66 g), glutaric acid (0.5 mol, 66.06 g), DPTS (0.2 mol, 58.84 g) were placed in a 3 L flask equipped with an overhead stirrer and condenser. Methylene chloride (1.2 L) was added to the flask and the contents stirred until all the solids were dispersed. DIPC (1.5 mol, 189.3 g, 234.2 mL) was added and stirring continued for 20-22 h by which time reaction mixture was viscous. The polymer was isolated by repeated precipitations from methylene chloride and isopropanol (IPA). The solid polymer was transferred to a polypropylene tray and left to dry in the hood overnight, transferred to a vacuum oven at 50° C. and dried to constant weight. The yield of poly(DTBn-glutarate) was 203 g (76%). The polymer had a molecular weight of 100 kDa and a Tg of 66° C.

reactant | DTBn | 0.5 mol, 209.66 g | CC(C)(C)N(C(C)(C)C)[O] | C8H18NO
reactant | glutaric acid | 0.5 mol, 66.06 g | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | DPTS | 0.2 mol, 58.84 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.CN(C1=CC=[NH+]C=C1)C
reactant | DIPC | 1.5 mol, 234.2 mL, 189.3 g | CC(N=C=NC(C)C)C | C7H14N2
reactant | polypropylene | C(C(C)[*:2])[*:1]
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 1.2 L | C(Cl)Cl | CH2Cl2
product | DTBn glutarate | CC(C)(C)N(C(C)(C)C)[O].C(CCCC(=O)[O-])(=O)[O-] | InChI=1S/C8H18NO.C5H8O4/c1-7(2,3)9(10)8(4,5)6;6-4(7)2-1-3-5(8)9/h1-6H3;1-3H2,(H,6,7)(H,8,9)/p-2
